### PR TITLE
[Merged by Bors] - chore: remove coercion attribute from `{NonUnitalStarRingHom, StarRingEquiv}.ofClass`

### PR DESCRIPTION
**Pull request by grunweg**
As discussed in #31365, this is the final step of fixing the morphism design for these classes.

Add a missing definition and coercion for `StarRingEquiv.toNonUnitalStarRingHom`.

---

- [x] depends on: ##43367

This PR doesn't attempt an exhaustive audit if there are further definitions that should be "concretised": #43405 can help with this.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 1]
```diff
@@ -715,11 +715,12 @@ instance : FunLike (A ≃⋆ₐ[R] B) A B where
   coe f := f.toFun
   coe_injective := DFunLike.coe_injective
 
-@[simp]
-theorem toStarRingEquiv_eq_coe (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = e := rfl
+theorem toStarRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = .ofClass e := rfl
+@[deprecated (since := "2026-09-03")] alias toStarRingEquiv_eq_coe := toStarRingEquiv_eq_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion

@[deprecated (since := "2026-09-03")] alias toStarRingEquiv_eq_coe := toStarRingEquiv_eq_ofClass
```

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 2]
```diff
@@ -790,10 +791,11 @@ theorem refl_symm : (StarAlgEquiv.refl R A).symm = .refl R A :=
   rfl
 
 @[simp]
-theorem toStarRingEquiv_symm (e : A ≃⋆ₐ[R] B) : (e.symm : B ≃⋆+* A) = (e : A ≃⋆+* B).symm := rfl
+theorem toStarRingEquiv_symm (e : A ≃⋆ₐ[R] B) : e.symm.toStarRingEquiv = e.toStarRingEquiv.symm :=
+  rfl
 
 @[simp]
-theorem toRingEquiv_symm (e : A ≃⋆ₐ[R] B) : (e : A ≃⋆+* B).symm = (e : A ≃+* B).symm := rfl
+theorem toRingEquiv_symm (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv.symm = (e.toRingEquiv).symm := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion
theorem toRingEquiv_symm (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv.symm = e.toRingEquiv.symm := rfl
```

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 3]
```diff
@@ -110,9 +106,11 @@ def Simps.apply (f : A →⋆ₙ+* B) : A → B := f
 initialize_simps_projections NonUnitalStarRingHom (toFun → apply)
 
 @[simp]
-protected theorem coe_coe {F : Type*} [FunLike F A B] [NonUnitalRingHomClass F A B]
-    [NonUnitalStarRingHomClass F A B] (f : F) : ⇑(f : A →⋆ₙ+* B) = f :=
+protected theorem coe_ofClass {F : Type*} [FunLike F A B] [NonUnitalRingHomClass F A B]
+    [NonUnitalStarRingHomClass F A B] (f : F) : ⇑(ofClass f) = f :=
   rfl
+@[deprecated (since := "2026-09-03")] alias coe_coe := NonUnitalStarRingHom.coe_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion

@[deprecated (since := "2026-09-03")] alias coe_coe := NonUnitalStarRingHom.coe_ofClass
```

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 4]
```diff
@@ -316,6 +307,16 @@ instance : FunLike (A ≃⋆+* B) A B where
   coe f := f.toFun
   coe_injective := DFunLike.coe_injective
 
+/-- A `⋆-ring equivalence` is a `⋆-ring homomorphism` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]: why is "⋆-ring {equivalence, homomorphism}" between ``?

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 5]
```diff
@@ -715,11 +715,12 @@ instance : FunLike (A ≃⋆ₐ[R] B) A B where
...
 
-@[simp]
-theorem toStarRingEquiv_eq_coe (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = e := rfl
+theorem toStarRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = .ofClass e := rfl
+@[deprecated (since := "2026-09-03")] alias toStarRingEquiv_eq_coe := toStarRingEquiv_eq_ofClass
 
-theorem toRingEquiv_eq_coe (e : A ≃⋆ₐ[R] B) : e.toRingEquiv = e :=
+theorem toRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toRingEquiv = StarRingEquiv.ofClass e :=
   rfl
+@[deprecated (since := "2026-09-03")] alias toRingEquiv_eq_coe := toRingEquiv_eq_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion

@[deprecated (since := "2026-09-03")] alias toRingEquiv_eq_coe := toRingEquiv_eq_ofClass
```

File: Mathlib/Algebra/Star/StarRingHom.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion
/-- A ⋆-ring equivalence is a ⋆-ring homomorphism. -/
```

File: Mathlib/Algebra/Star/StarRingHom.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias coe_coe := NonUnitalStarRingHom.coe_ofClass
```

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias toRingEquiv_eq_coe := toRingEquiv_eq_ofClass
```

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean]:
```suggestion

@[deprecated (since := "2026-09-08")] alias toStarRingEquiv_eq_coe := toStarRingEquiv_eq_ofClass
```

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 6]
```diff
@@ -110,10 +106,13 @@ def Simps.apply (f : A →⋆ₙ+* B) : A → B := f
...
 @[simp]
-protected theorem coe_coe {F : Type*} [FunLike F A B] [NonUnitalRingHomClass F A B]
-    [NonUnitalStarRingHomClass F A B] (f : F) : ⇑(f : A →⋆ₙ+* B) = f :=
+protected theorem coe_ofClass {F : Type*} [FunLike F A B] [NonUnitalRingHomClass F A B]
+    [NonUnitalStarRingHomClass F A B] (f : F) : ⇑(ofClass f) = f :=
   rfl
 
+@[deprecated (since := "2026-09-08")] alias coe_coe := NonUnitalStarRingHom.coe_ofClass
+
+
```
Comment (grunweg) [inline Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion
```

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 7]
```diff
@@ -715,12 +715,15 @@ instance : FunLike (A ≃⋆ₐ[R] B) A B where
...
   coe_injective := DFunLike.coe_injective
 
-@[simp]
-theorem toStarRingEquiv_eq_coe (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = e := rfl
+theorem toStarRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv = .ofClass e := rfl
+
+@[deprecated (since := "2026-09-08")] alias toStarRingEquiv_eq_coe := toStarRingEquiv_eq_ofClass
 
-theorem toRingEquiv_eq_coe (e : A ≃⋆ₐ[R] B) : e.toRingEquiv = e :=
+theorem toRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toRingEquiv = StarRingEquiv.ofClass e :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean:723]: can you add a TODO here to change the RHS to `RingEquiv.ofClass`?

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 8]
```diff
@@ -790,10 +793,11 @@ theorem refl_symm : (StarAlgEquiv.refl R A).symm = .refl R A :=
   rfl
 
 @[simp]
-theorem toStarRingEquiv_symm (e : A ≃⋆ₐ[R] B) : (e.symm : B ≃⋆+* A) = (e : A ≃⋆+* B).symm := rfl
+theorem toStarRingEquiv_symm (e : A ≃⋆ₐ[R] B) : e.symm.toStarRingEquiv = e.toStarRingEquiv.symm :=
+  rfl
 
 @[simp]
-theorem toRingEquiv_symm (e : A ≃⋆ₐ[R] B) : (e : A ≃⋆+* B).symm = (e : A ≃+* B).symm := rfl
+theorem toRingEquiv_symm (e : A ≃⋆ₐ[R] B) : e.toStarRingEquiv.symm = e.toRingEquiv.symm := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean:801]: shouldn't the LHS be `e.symm.toRingEquiv`?

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 9]
```diff
@@ -272,20 +270,13 @@ instance (priority := 100) {F A B : Type*} [NonUnitalNonAssocSemiring A] [Star A
 
 /-- Turn an element of a type `F` satisfying `StarRingEquivClass F A B` into an actual
 `StarRingEquiv`. This is declared as the default coercion from `F` to `A ≃⋆+* B`. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion
`StarRingEquiv`. -/
```

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 10]
```diff
@@ -316,6 +307,16 @@ instance : FunLike (A ≃⋆+* B) A B where
...
 
+/-- A ⋆-ring equivalence is a ⋆-ring homomorphism. -/
+def toNonUnitalStarRingHom {A B : Type*}
+    [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] (f : A ≃⋆+* B) :
+    A →⋆ₙ+* B where
+  toNonUnitalRingHom := f
+  map_star' := f.map_star'
+
+instance {A B : Type*} [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] :
+    CoeHead (A ≃⋆+* B) (A →⋆ₙ+* B) where coe := StarRingEquiv.toNonUnitalStarRingHom
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]: question: why not `CoeOut` like the below instance?

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean:801]: That would change the statement's meaning, right? (Do you feel confident that this would be good? I'm not an expert on this corner of mathlib.)

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean:723]:
```suggestion
-- TODO: change the RHS to `RingEquiv.ofClass`
theorem toRingEquiv_eq_ofClass (e : A ≃⋆ₐ[R] B) : e.toRingEquiv = StarRingEquiv.ofClass e :=
```

File: Mathlib/Algebra/Star/StarRingHom.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]: I wasn't sure if this was required here, but don't feel strongly. Let's go with CoeOut for consistency.

```suggestion
    CoeOut (A ≃⋆+* B) (A →⋆ₙ+* B) where coe := StarRingEquiv.toNonUnitalStarRingHom
```

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 8 above)
Comment (themathqueen) [reply Mathlib/Algebra/Star/StarAlgHom.lean:801]: I mean, currently it's `e.toStarRingEquiv.symm.toRingEquiv = e.toRingEquiv.symm`, so I'm not sure why it shouldn't just be `e.symm.toRingEquiv = ..`.

Oh, wait, I think `toRingEquiv` is actually `toStarRingEquiv.toRingEquiv`, so maybe that's why. So I don't think it would even lint if you change it.

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 11]
```diff
@@ -316,6 +307,16 @@ instance : FunLike (A ≃⋆+* B) A B where
   coe f := f.toFun
   coe_injective := DFunLike.coe_injective
 
+/-- A ⋆-ring equivalence is a ⋆-ring homomorphism. -/
+def toNonUnitalStarRingHom {A B : Type*}
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]: this definition needs basic API: like `coe_` or `_apply`?

Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]: Sure. I've added a coe_ lemma for now. Let me know if you would like something else!

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 12]
```diff
@@ -316,6 +307,21 @@ instance : FunLike (A ≃⋆+* B) A B where
...
+    [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] (f : A ≃⋆+* B) :
+    A →⋆ₙ+* B where
+  toNonUnitalRingHom := f
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean:316]: I think also a
```lean
lemma toNonUnitalRingHom_toNonUnitalStarRingHom (f) :
    f.toNonUnitalStarRingHom.toNonUnitalRingHom = f.toNonUnitalRingHom := rfl
```
would be nice?

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 13]
```diff
@@ -316,6 +307,21 @@ instance : FunLike (A ≃⋆+* B) A B where
...
+  map_star' := f.map_star'
+
+instance {A B : Type*} [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] :
+    CoeOut (A ≃⋆+* B) (A →⋆ₙ+* B) where coe := StarRingEquiv.toNonUnitalStarRingHom
+
+@[simp]
+lemma coe_toNonUnitalStarRingHom {A B : Type*}
+    [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] (f : A ≃⋆+* B) :
+    (f.toNonUnitalRingHom : A → B) = f := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]: maybe put this in a section so that you can declare these variables? (if you want) (non-blocking suggestion)

**Review by themathqueen — COMMENTED** [review]
Looks good to me, thanks!

maintainer delegate

File: Mathlib/Algebra/Star/StarRingHom.lean (hunk 12 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean:316]: Sure. Putting this into a section, the suggestion just worked.

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 14]
```diff
@@ -316,6 +307,26 @@ instance : FunLike (A ≃⋆+* B) A B where
...
+  map_star' := f.map_star'
+
+instance : CoeOut (A ≃⋆+* B) (A →⋆ₙ+* B) where coe := StarRingEquiv.toNonUnitalStarRingHom
+
+lemma toNonUnitalRingHom_toNonUnitalStarRingHom (f : A ≃⋆+* B) :
+    f.toNonUnitalStarRingHom.toNonUnitalRingHom = f.toNonUnitalRingHom := rfl
+
+lemma coe_toNonUnitalStarRingHom {A B : Type*}
+    [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B] (f : A ≃⋆+* B) :
+    (f.toNonUnitalRingHom : A → B) = f := rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarRingHom.lean]: I think this is why the simp wasn't linting before, so add simp back after this fix?
```suggestion
    (f.toNonUnitalStarRingHom : A → B) = f := rfl
```

Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]: Yes, now it lints. Thanks!

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 15]
```diff
@@ -790,10 +794,11 @@ theorem refl_symm : (StarAlgEquiv.refl R A).symm = .refl R A :=
...
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/StarAlgHom.lean:801]: I suspect that this declaration should just die. It's trying to do a `symm` commute lemma across multiple squares, but we should only ever do one at a time. To be precise, what I mean is that we have

`StarAlgEquiv.toStarRingEquiv` and `StarRingEquiv.toRingEquiv`, and then we have `symm` constructions for each of these 3 morphism types. Together, these form the pasting of two commutative squares. The first commutative square is the lemma above this one (`StarAlgEquiv.toStarRingEquiv_symm`) and the second one *should exist but doesn't* (`StarRingEquiv.toRingEquiv_symm`). The lemma we have here is the outer rectangle, and it shouldn't exist.

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 16]
```diff
@@ -316,6 +307,27 @@ instance : FunLike (A ≃⋆+* B) A B where
   coe f := f.toFun
   coe_injective := DFunLike.coe_injective
 
+section
+
+variable {A B : Type*} [NonUnitalSemiring A] [StarRing A] [NonUnitalSemiring B] [StarRing B]
+
+/-- A ⋆-ring equivalence is a ⋆-ring homomorphism. -/
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/StarRingHom.lean]:
```suggestion
/-- A ⋆-ring equivalence is a non-unital ⋆-ring homomorphism. -/
```

File: Mathlib/Algebra/Star/StarRingHom.lean [hunk 17]
```diff
@@ -316,6 +307,27 @@ instance : FunLike (A ≃⋆+* B) A B where
...
+def toNonUnitalStarRingHom (f : A ≃⋆+* B) : A →⋆ₙ+* B where
+  toNonUnitalRingHom := f
+  map_star' := f.map_star'
+
+instance : CoeOut (A ≃⋆+* B) (A →⋆ₙ+* B) where coe := StarRingEquiv.toNonUnitalStarRingHom
+
+lemma toNonUnitalRingHom_toNonUnitalStarRingHom (f : A ≃⋆+* B) :
+    f.toNonUnitalStarRingHom.toNonUnitalRingHom = f.toNonUnitalRingHom := rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/StarRingHom.lean]: The RHS makes it look (because of the collapsed dot notation due to the structure projection) like there is some `StarRingEquiv.toNonUnitalRingHom` declaration, but there isn't, because RHS is really `f.toRingEquiv.toNonUnitalRingHom`. I suggest making this explicit in the source.

```suggestion
    f.toNonUnitalStarRingHom.toNonUnitalRingHom = f.toRingEquiv.toNonUnitalRingHom := rfl
```

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 15 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/StarAlgHom.lean:801]: If you want to save this (deleting / deprecating this decl, adding the missing one) for a future PR that's fine. If you want to do it here, also fine.

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Star/StarRingHom.lean (hunk 17 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarRingHom.lean]: Yes; very good point!

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 15 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean:801]: Let me do this in a follow-up PR (and start this right now). I prefer not having too many of these PRs in flight.

And I agree, this is a subtle issue but one we could fix. Is there a way we can lint for such patterns more generally?

**Comment by grunweg** [comment]
Thanks for the careful and detailed review. I appreciate this is kind of painstaking (lots of minor details), but the fast feedback is really great (and one aspect of the pre-AI world we should strive to keep!).

**Comment by grunweg** [comment]
bors merge

File: Mathlib/Algebra/Star/StarAlgHom.lean (hunk 15 above)
Comment (grunweg) [reply Mathlib/Algebra/Star/StarAlgHom.lean:801]: #43593 is that follow-up.
